US05908863
A solution of ethyl 5-BOC-amino-2-ethoxycarbonyl-2-[4-tetrahydropyranyloxy]-pentanoate in CH2Cl2 (20 ml), cooled at 0-5° C., is added with trifluoroacetic acid (5 ml). After a night at room temperature, the mixture is evaporated under vacuum to obtain, after trituration of the residue in ethyl ether, 3.86 g of 4,4-diethoxycarbonyl-4-(4-tetrahydropyranyloxy)-butylammonium trifluoroacetate. A suspension of the salt in AcOEt (25 ml) is neutralized, under stirring at 0-5° C., by careful addition of a 5% sodium bicarbonate aqueous solution. After separating the organic phase and re-extracting the aqueous phase with AcOEt (3×5 ml), the combined organic phases are dried over Na2SO4, and solvent is evaporated off to obtain 2.73 g of ethyl 5-amino-2-ethoxycarbonyl-2-[4-tetrahydropyranyloxy]-pentanoate.

reactant | ethyl 5-BOC-amino-2-ethoxycarbonyl-2-[4-tetrahydropyranyloxy]-pentanoate | C(=O)(OC(C)(C)C)CCC(C(C(=O)OCC)(OC1CCOCC1)C(=O)OCC)N | C20H35NO8
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4,4-diethoxycarbonyl-4-(4-tetrahydropyranyloxy)-butylammonium trifluoroacetate | 3.86 g | FC(C(=O)[O-])(F)F.C(C)OC(=O)C(CCC[NH3+])(OC1CCOCC1)C(=O)OCC
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | AcOEt | 25 ml | CCOC(=O)C | C4H8O2
product | ethyl 5-amino-2-ethoxycarbonyl-2-[4-tetrahydropyranyloxy]-pentanoate | 2.73 g | NCCCC(C(=O)OCC)(OC1CCOCC1)C(=O)OCC | C15H27NO6
